US08877968B2
To a solution containing 450 mg of piperidin-1-yl-(1-trityl-1H-imidazol-4-yl-methylene)amine in 3.5 mL of 3N hydrogen chloride in ethyl acetate are added 90 mg of 10% Pd/C, 0.5 mL of THF and 0.9 mL of ethanol. The reaction medium is placed under a hydrogen pressure of 6 bar and heated at 80° C. for 3 hours. After filtering off the catalyst and evaporating off the solvents, the crude product obtained is chromatographed on silica gel (eluent: 6/4 DCM/MeOH). 50 mg of C-(1H-imidazol-4-yl)methylamine dihydrochloride in the form of a white powder are obtained in a yield of 29%.

reactant | piperidin-1-yl-(1-trityl-1H-imidazol-4-yl-methylene)amine | 450 mg | N1(CCCCC1)N=CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | ethanol | 0.9 mL | C(C)O | C2H6O
reactant | hydrogen chloride | 3N, 3.5 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 90 mg | [Pd] | Pd
product | C-(1H-imidazol-4-yl)methylamine dihydrochloride | 50 mg, yield of 29% | Cl.Cl.N1C=NC(=C1)CN | InChI=1S/C4H7N3.2ClH/c5-1-4-2-6-3-7-4;;/h2-3H,1,5H2,(H,6,7);2*1H
